US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4,4-difluorobutoxy)phenyl)-pyrrolidine-2,4-dione
The compound was synthesized starting from 1H-benzo[d]imidazol-5-amine (0.620 g, 4.6 mmol), 4-(4,4-difluorobutoxy)benzaldehyde (1.0 g, 4.6 mmol), 2-(ethoxycarbonyl)acetic acid (0.61 g, 4.6 mmol), 1-isocyano-2-methylpropan-2-yl methyl carbonate (0.72 g, 4.6 mmol) and sodium tert.-butoxide (0.620 g, 5.5 mmol) according to method 3.

reactant | 1H-benzo[d]imidazol-5-amine | 4.6 mmol, 0.620 g | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-(4,4-difluorobutoxy)benzaldehyde | 4.6 mmol, 1.0 g | FC(CCCOC1=CC=C(C=O)C=C1)F | C11H12F2O2
reactant | 2-(ethoxycarbonyl)acetic acid | 4.6 mmol, 0.61 g | C(C)OC(=O)CC(=O)O | C5H8O4
reactant | 1-isocyano-2-methylpropan-2-yl methyl carbonate | 4.6 mmol, 0.72 g | C(OC(C[N+]#[C-])(C)C)(OC)=O | C7H11NO3
reactant | sodium tert.-butoxide | 5.5 mmol, 0.620 g | CC(C)([O-])C.[Na+]
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4,4-difluorobutoxy)phenyl)-pyrrolidine-2,4-dione | N1C=NC2=C1C=CC(=C2)N2C(CC(C2C2=CC=C(C=C2)OCCCC(F)F)=O)=O | C21H19F2N3O3
